US08278322B2
Step 3: Methyl (4R)-4-[(6-bromoquinazolin-4-yl)oxy]-L-prolinate hydrochloride (Intermediate C2)
To a solution of 1-tert-butyl 2-methyl (2S,4R)-4-[(6-bromoquinazolin-4-yl)oxy]pyrrolidine-1,2-dicarboxylate (3.46 g, 6.65 mmol) in dioxane (80 mL) at 0° C. was introduced anhydrous HCl (g) over 30 min. The reaction was complete by HPLC/MS. The reaction mixture was concentrated and the resulting solids were azeotroped with diethyl ether (50 mL) to give the title compound (3.0 g). LRMS (M+H)+=352.2.

reactant | 1-tert-butyl 2-methyl (2S,4R)-4-[(6-bromoquinazolin-4-yl)oxy]pyrrolidine-1,2-dicarboxylate | 6.65 mmol, 3.46 g | BrC=1C=C2C(=NC=NC2=CC1)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C19H22BrN3O5
reactant | HCl | Cl | ClH
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | Methyl (4R)-4-[(6-bromoquinazolin-4-yl)oxy]-L-prolinate hydrochloride | 3.0 g | Cl.BrC=1C=C2C(=NC=NC2=CC1)O[C@@H]1C[C@H](NC1)C(=O)OC | InChI=1S/C14H14BrN3O3.ClH/c1-20-14(19)12-5-9(6-16-12)21-13-10-4-8(15)2-3-11(10)17-7-18-13;/h2-4,7,9,12,16H,5-6H2,1H3;1H/t9-,12+;/m1./s1
